US04837333
A mixture of ethyl 2-chloro-4-methylbenzoate (2.34 g, 0.0118 mol), N-bromosuccinimide (2.05 g, 0.0115 mol), and benzoyl peroxide (0.5 g) in carbon tetrachloride (50 ml) was heated under reflux for 90 minutes. The resulting solution was filtered and the solvent was evaporated off under reduced pressure to yield ethyl 4-(bromomethyl)-2-chlorobenzoate as a yellow crystalline solid having the following structural characteristics:

reactant | ethyl 2-chloro-4-methylbenzoate | 0.0118 mol, 2.34 g | ClC1=C(C(=O)OCC)C=CC(=C1)C | C10H11ClO2
reactant | N-bromosuccinimide | 0.0115 mol, 2.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.5 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl 4-(bromomethyl)-2-chlorobenzoate | BrCC1=CC(=C(C(=O)OCC)C=C1)Cl | C10H10BrClO2
